US08044208B2
Ethyl (S)-3-(6-aminopyridin-3-yl)-2-{1-[5-(5-chlorothiophen-2-yl)isoxazol-3-ylmethyl]-1H-imidazol-4-yl}propionate
Under argon, 0.485 g (60% in mineral oil, 19.21 mmol) of sodium hydride was added to a solution of 5.0 g (19.21 mmol) of 3-(6-aminopyridin-3-yl)-2-(1H-imidazol-4-yl)propionic acid in 200 ml of absolute DMF. The mixture was stirred for 30 min at RT, 5.643 g (19.21 mmol) of 5-(5-chlorothiophen-2-yl)isoxazol-3-ylmethyl methanesulfonate were then added and the mixture was stirred at RT for another 3 h. The reaction mixture was concentrated under reduced pressure, and the residue obtained was chromatographed on silica gel using CH2Cl2/MeOH/water/acetic acid 90:10:1:1. This gave two product-containing fractions which were purified by preparative HPLC. The fractions of value were combined and freeze-dried. The residue obtained was dissolved in ethyl acetate, washed with saturated NaHCO3 solution, dried over Na2SO4, filtered and concentrated. The material obtained in this manner (3.7 g) was separated into its enantiomers by chiral HPLC (column Chiralpak AD-H/55, 250×4.6 mm, flow rate 1 ml/min, mobile phase heptane:isopropanol:methanol 3:1:1+0.1% TFA). 0.1 g (218 μmol) of the product obtained was dissolved in 5 ml of water/acetic acid (1:1) and freeze-dried (0.108 g, 95%).

reactant | sodium hydride | 19.21 mmol, 0.485 g | [H-].[Na+]
reactant | 3-(6-aminopyridin-3-yl)-2-(1H-imidazol-4-yl)propionic acid | 19.21 mmol, 5.0 g | NC1=CC=C(C=N1)CC(C(=O)O)C=1N=CNC1 | C11H12N4O2
reactant | 5-(5-chlorothiophen-2-yl)isoxazol-3-ylmethyl methanesulfonate | 19.21 mmol, 5.643 g | CS(=O)(=O)OCC1=NOC(=C1)C=1SC(=CC1)Cl | C9H8ClNO4S2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | Ethyl (S)-3-(6-aminopyridin-3-yl)-2-{1-[5-(5-chlorothiophen-2-yl)isoxazol-3-ylmethyl]-1H-imidazol-4-yl}propionate | 218 μmol, 0.1 g | NC1=CC=C(C=N1)C[C@H](C(=O)OCC)C=1N=CN(C1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C21H20ClN5O3S
